US03974287
Preparation of 2-(2,5-Dimethoxyphenyl)benzothiazoline
2-Aminothiophenol (6.3 g., 0.05 mole) and 8.3 g (0.05 mole) of 2,5-dimethoxybenzaldehyde were combined and mixed thoroughly. After a few minutes the mixture evolved heat, became cloudy, and slowly crystallized. The mixture was then warmed for a few minutes to complete the reaction. The product was then recrystallized from ethanol yielding 8.0 g (59%), mp. 96°-99°.

reactant | 2-Aminothiophenol | 0.05 mole, 6.3 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2,5-dimethoxybenzaldehyde | 0.05 mole, 8.3 g | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
product | 2-(2,5-Dimethoxyphenyl)benzothiazoline | COC1=C(C=C(C=C1)OC)C=1SC2=C(N1)C=CC=C2 | C15H13NO2S
